US06964965B2
Step 3: 6-methoxy-2,3-dihydro-1H-inden-5-ylboronic acid
A dry 250 mL round bottom flask was charged with 6-bromo-2,3-dihydro-1H-inden-5-yl methyl ether (9.38 grams, 41.27 mmol) and placed under high vacuum for 18 hours. THF (51.6 mL) was added via syringe. The solution was homogeneous and clear. The reaction was cooled with a dry ice/acetone bath for 15 minutes, then n-BuLi was added semi-dropwise. A color change to pale yellow was observed. The reaction was stirred at −78° C. for 1 hour, followed by drop-wise addition of triethylborate (7.73 mL, 45.43 mmol). After continued stirring and cooling at −78° C. for 2 hours, the reaction was quenched with 10% aq. HCl (50 mL, 3M), the cooling bath was removed, and the reaction was allowed to warm to ambient temperature. The reaction was poured in water and extracted two times with ethyl acetate. The organics were combined, dried with MgSO4, filtered and concentrated to 8.0 grams of 6-methoxy-2,3-dihydro-1H-inden-5-ylboronic acid as a white, somewhat tacky, solid. The solid turned blue over 48 hours. The boronic acid was used without further purification.

reactant | 6-bromo-2,3-dihydro-1H-inden-5-yl methyl ether | 41.27 mmol, 9.38 grams | COC=1C=C2CCCC2=CC1Br | C10H11BrO
reactant | n-BuLi | [Li]CCCC
reactant | triethylborate | 45.43 mmol, 7.73 mL | C(C)OB(OCC)OCC | C6H15BO3
solvent | THF | 51.6 mL | C1CCOC1 | C4H8O
product | 6-methoxy-2,3-dihydro-1H-inden-5-ylboronic acid | COC1=C(C=C2CCCC2=C1)B(O)O | C10H13BO3
